US07691850B2
f) 10-Bromo-9-chloro-2,3-dihydro-[1,4]dioxino[2,3-f]quinoline
9-Chloro-2,3-dihydro-[1,4]dioxino[2,3-f]quinolin-10-ol (3.12 g, 13.1 mmol) in dry DMF (16.7 mL) was cooled in ice and phosphorus tribromide (4.78 mL) added drop-wise, and the mixture was stirred, with ice-cooling for 30 minutes then allowed to warm to room temperature and stirred for a further 2 hours. It was cooled in ice and sodium carbonate solution was added and the solid was collected, washed well with water, and dried in vacuo, to afford a pale yellow solid (3.55 g, 90%). LC/MS (ES) m/z 300 (MH+ 100%); 1H-NMR (400 MHz, DMSO), 8.73 (1H, s, CHNHC), 7.62 (1H, d, J=9.12, CHCOCH2), 7.47 (1H, d, J=9.08, CHCN), 4.43 (4H, m, 2×(CH2O)).

reactant | 9-Chloro-2,3-dihydro-[1,4]dioxino[2,3-f]quinolin-10-ol | 13.1 mmol, 3.12 g | ClC=1C=NC2=CC=C3C(=C2C1O)OCCO3 | C11H8ClNO3
reactant | phosphorus tribromide | 4.78 mL | P(Br)(Br)Br | Br3P
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | DMF | 16.7 mL | CN(C)C=O | C3H7NO
product | 10-Bromo-9-chloro-2,3-dihydro-[1,4]dioxino[2,3-f]quinoline | 3.55 g, 90% | BrC1=C(C=NC2=CC=C3C(=C12)OCCO3)Cl | C11H7BrClNO2
